US07842688B2
b) 2-(4-Bromobutoxy)-1-methoxy-3-methylbenzene
Analogously to Example 50b, 2.50 g of 2-methoxy-6-methylphenol and 2.67 ml of 1,4-dibromobutane are used to prepare the title compound. Rf=0.58 (1:1 EtOAc-heptane); Rt=5.28.

reactant | 2-methoxy-6-methylphenol | 2.50 g | COC1=C(C(=CC=C1)C)O | C8H10O2
reactant | 1,4-dibromobutane | 2.67 ml | BrCCCCBr | C4H8Br2
product | 2-(4-Bromobutoxy)-1-methoxy-3-methylbenzene | BrCCCCOC1=C(C=CC=C1C)OC | C12H17BrO2
